US04436660
By a procedure analogous to that described in Example 1, 97.0 g of 5H-dibenz[b,f]azepine are suspended in 320 ml of 1,2-dichloroethane, and 2 ml of N,N-dimethylacetamide are added. The temperature is raised to 60°, and 50 g of cyanogen chloride are introduced in the course of 2 hours, the reflux condenser being cooled to -17° in order to avoid loss of cyanogen chloride. The mixture is kept at 60° for 16 hours; a descending condenser is then fitted, and at normal pressure 200 ml of a mixture of cyanogen chloride and 1,2-dichloroethane are distilled off into a cooled receiver. During distillation, the 1,2-dichloroethane passing over is continuously replaced by fresh solvent in order to remove residual cyanogen chloride. The contents of the flask are cooled to room temperature; 200 ml of water are added, and the mixture is rendered permanently alkaline by the addition of 30% sodium hydroxide solution. Further processing, analogous to that in Example 2, yields 96.3 g of 5-cyano-5H-dibenz[b,f]azepine, which, according to the IR spectrum, is identical to authentic material; m.p. 108°-109°. A further 4 g of final product can be obtained from the mother liquor, and the total yield is 100.3 g (92% of theory).

reactant | 5H-dibenz[b,f]azepine | 97.0 g | C1=CC=CC=2NC3=C(C=CC21)C=CC=C3 | C14H11N
reactant | N,N-dimethylacetamide | 2 ml | CN(C(C)=O)C | C4H9NO
reactant | cyanogen chloride | 50 g | N#CCl | CClN
solvent | 1,2-dichloroethane | 320 ml | ClCCCl | C2H4Cl2
product | 5-cyano-5H-dibenz[b,f]azepine | 96.3 g | C(#N)N1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C15H10N2
